US06465472B1
To a suspension of 6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)-quinazolin-2-one (310 mg, 1.00 mmol) in DMF (7 mL) was added NaH (97%, 32 mg, 1.33 mmol). The mixture was stirred at 25° C. for 45 min, then (bromomethyl)cyclopropane (0.2 mL, 2.0 mmol) was added. The resulting mixture was then heated at 100° C. for 6 h. cooled to rt, poured into ice-water (50 mL) and stirred for 30 min. The resulting precipitate was collected by filtration and the solid was dissolved in ethyl acetate. The solution was washed with water and brine, dried over anhydrous MgSO4, and the solvent was removed in vacuo. This crude product was separated by chromatography in silica gel. Elution with hexane:acetone (65:35) gave 6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)-2-(cyclopropylmethoxy)-quinazoline as yellow solid (60 mg); mp 175-182° C.; 1H NMR (CDCl3) 7.31 (s, 1H), 7.21-7.25 (m, 3H), 7.14 (s, 1H), 6.93-6.96 (d, J=8.4, 1H), 6.09 (s, 2H), 6.06 (s, 2H), 4.29-4.31 (t, J=7.2, 2H), 3.2 (s, 1H); 0.63 (s, 2H), 0.41 (s, 2H); C20H16N2O5; C 65.93, H 4.43, N 7.69. Further elution with the same solvents gave 1-cyclopropylmethyl-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazolin-2(1H)-one as pale yellow solid (75 mg); mp 255-260° C.; 1H NMR (CDCl3) 7.18-7.36 (m, 3H), 6.82-7.02 (m, 3H), 6.11 (s, 2H), 6.06 (s, 2H), 4.22 (d, J=6.8, 2H), 1.18-1.40 (m, 1H), 0.41-0.78 (m, 4H); C20H16N2O5; C 65.93, H 4.43, N 7.69.

reactant | 6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)-quinazolin-2-one | 1.00 mmol, 310 mg | C1OC=2C=C3C(=NC(NC3=CC2O1)=O)C1=CC2=C(C=C1)OCO2 | C16H10N2O5
reactant | NaH | 1.33 mmol, 32 mg | [H-].[Na+]
reactant | (bromomethyl)cyclopropane | 2.0 mmol, 0.2 mL | BrCC1CC1 | C4H7Br
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)-2-(cyclopropylmethoxy)-quinazoline | 60 mg | C1OC=2C=C3C(=NC(=NC3=CC2O1)OCC1CC1)C1=CC2=C(C=C1)OCO2 | C20H16N2O5
